US09302988B2
Step 1: tert-Butyl 2-methyl-2-morpholinopropylcarbamate
To a solution of 2-methyl-2-morpholinopropan-1-amine (531 mg, 3.36 mmol) in DCM (5 mL) was added Boc2O (732 mg, 3.36 mmol). The reaction mixture was stirred at room temperature. After 1.5 h the reaction mixture was concentrated and diluted with aqueous saturated NaHCO3 and extracted with DCM (30 mL). The combined organic layers were dried (Na2SO4) and evaporated to give the desired product (770 mg, 89%) as a yellow oil.

reactant | 2-methyl-2-morpholinopropan-1-amine | 3.36 mmol, 531 mg | CC(CN)(C)N1CCOCC1 | C8H18N2O
reactant | Boc2O | 3.36 mmol, 732 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 2-methyl-2-morpholinopropylcarbamate | 770 mg, 89% | CC(CNC(OC(C)(C)C)=O)(C)N1CCOCC1 | C13H26N2O3
